US06828116B1
2-methylbenzothiazole (3 ml, 20.1 mmol) was dissolved in acetone (25 ml), to which was added 3,5-dinitrobenzyl iodide (7.4 g, 24.1 mmol) and heated with stirring to reflux for 15 hours. The reaction was allowed to cool and added drop-wise to ether (500 ml) to produce a fine yellow solid which was filtered and dried to constant weight in vacuo to give 3-(3,5-dinitrobenzyl)-2-methyl-1,3-benzothiazol-3-ium iodide (5 g, 10.9 mmol, 45% yield). MS: m/z=328 (C15H12N3O4S=330.3). 1H NMR (200 MHz-DMSO-d6): δ 2.85 (s, 1 H); 3.7 (s, 3H); 6.35 (s, 2H); 7.37 (m, 2H); 8.23 (d, 1H); 8.53 (d, 1H); 8.62 (s, 2H): 8.8 (s, 1H).

reactant | 2-methylbenzothiazole | 20.1 mmol, 3 ml | CC=1SC2=C(N1)C=CC=C2 | C8H7NS
reactant | 3,5-dinitrobenzyl iodide | 24.1 mmol, 7.4 g | [N+](=O)([O-])C=1C=C(CI)C=C(C1)[N+](=O)[O-] | C7H5IN2O4
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 3-(3,5-dinitrobenzyl)-2-methyl-1,3-benzothiazol-3-ium iodide | 10.9 mmol, 5 g, 45% yield | [I-].[N+](=O)([O-])C=1C=C(C[N+]2=C(SC3=C2C=CC=C3)C)C=C(C1)[N+](=O)[O-] | InChI=1S/C15H12N3O4S.HI/c1-10-16(14-4-2-3-5-15(14)23-10)9-11-6-12(17(19)20)8-13(7-11)18(21)22;/h2-8H,9H2,1H3;1H/q+1;/p-1
